US08053457B2
(4-Morpholin-4-yl-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Piperidin-4-yl-morpholine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=210.1: 1HNMR(DMSO-d6) 3.65 (s, 2H), 3.55 (t, 4H), 2.80-2.75 (m, 2H), 2.40 (t, 4H), 2.15-2.00 (m, 3H), 1.80-1.70 (m, 2H), 1.40-1.30 (m, 2H).

reactant | 4-Piperidin-4-yl-morpholine | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Morpholin-4-yl-piperidin-1-yl)-acetonitrile | N1(CCOCC1)C1CCN(CC1)CC#N | C11H19N3O
